Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Aspirin / Ibuprofen / Compazine / Serevent Refill / Penicillins 
/ Latex / Anzemet / Flonase
 
Attending: ___
 
Chief Complaint:
Neck, Left shoulder, and abdominal pain. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman who was a restrained driver who was 
rear-ended while stopped at a red light by a car traveling 50 
mph. Airbag was not deployed, and no damage to the windshield 
was noted. Immediately after the collision, she developed a 
severe and diffuse HA, but attempted to drive herself to work. 
20
minutes later, she began to feel nauseous and confused, and 
noted worsening left-sided neck pain radiating down her shoulder 
and left arm.

She then presented to ___ ED, where she was found to have 
tenderness over her c-spine and t-spine, LUQ pain, and 
left-sided chest wall tenderness. She stated that her left arm 
felt "heavy and weak," without paresthesias. FAST exam was 
reportedly equivocal. She rated her diffuse HA as ___ pain, 
which improved
slightly with 1 g APAP IV.
 
Past Medical History:
OB: SVDx6, TAB, SAB
Gyn: abnormal uterine bleeding, no abnl pap
PMH: asthma
PSH: endometrial ablation, tubal ligation, HSC, D&C, CCY, 
perineorrhaphy
 
Social History:
___
Family History:
breast and ovarian cancer maternal side
 
Physical Exam:
Admission Physical exam:
VS: T 97.6F, P 87, BP 143/80, RR 18, SaO2 100% RA
Gen: intermittently tearful woman lying flat, in cervical 
collar, NAD
HEENT: NC/AT, PERRL, EOMI, OP clear, no Battle's sign or raccoon 
eyes, no CSF rhinorrhea or otorrhea
Neck: in hard cervical collar, tender to palpation over left 
side of neck from C1-C7
Pulm: lungs clear to auscultation bilaterally
CV: RRR, nl S1/S2, no M/R/G
Abd: +BS, soft, non-distended, moderately TTP along left costal 
margin
Back: diffusely tender to palpation over thoracic and cervical 
spine, worse over superior t-spine and c-spine
Ext: WWP, no edema, no ecchymoses or deformities appreciated
Neuro: A&O x3, mildly decreased sensation to light touch, 
vibration, and cold temperature in left upper extremity, intact 
sensation to light touch and vibration in lower extremities, 
decreased cold temperature sensation in left lower extremity, 
DTRs 1+ and symmetric at biceps/ triceps/ brachioradialis/ 
patella/ achilles, 4+ strength in left deltoid, 5 in right 
deltoid

Discharge Physical Exam:
VS: 97.7 PO 129 / 83 R Lying 81 18 98 Ra 
GEN: Sitting up in bed, pleasant and interactive.
HEENT: PERRL, EOMI. 
CV: RRR
PULM: Clear to auscultation bilaterally.
ABD: Soft, mildly tender to palpation Left upper quadrant, 
non-distended. Active Bowel sounds
EXT: Warm and dry. No edema.
Neuro: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 

 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.0 RBC-4.74 Hgb-12.3 Hct-39.8 MCV-84 
MCH-25.9* MCHC-30.9* RDW-14.5 RDWSD-44.1 Plt ___
___ 09:20AM BLOOD WBC-6.4 RBC-4.70 Hgb-12.1 Hct-39.3 MCV-84 
MCH-25.7* MCHC-30.8* RDW-14.3 RDWSD-43.2 Plt ___
___ 02:25AM BLOOD WBC-5.9 RBC-4.83 Hgb-12.7 Hct-40.4 MCV-84 
MCH-26.3 MCHC-31.4* RDW-14.6 RDWSD-44.0 Plt ___
___ 01:04PM BLOOD WBC-7.2 RBC-4.87 Hgb-12.5 Hct-40.9 MCV-84 
MCH-25.7* MCHC-30.6* RDW-14.5 RDWSD-44.1 Plt ___
___ 01:04PM BLOOD ALT-20 AST-26 AlkPhos-129* TotBili-0.3
___ 01:48PM BLOOD ___ PTT-28.8 ___
___ 03:20AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 03:20AM URINE Color-Straw Appear-Clear Sp ___

___ 3:20 am URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

RADIOLOGY:
___ MRI C-Spine:
1. No evidence for acute fracture or definite traumatic 
subluxation. 
2. Multilevel spondylosis of the cervical spine, most 
significant at the level 
of C5-6 with mild to moderate canal stenosis, mild-to-moderate 
right and 
moderate left neural foraminal narrowing. 
  
___ CT Head:
No acute intracranial process.

___ CT C-Spine:
1. No evidence of acute fracture or traumatic subluxation. 
2. Mild multilevel degenerative changes as above. 

___ CT Chest/ab/pelvis:
1. Hypodensity at the liver tip may reflect a cyst or biliary 
hamartoma, 
however in the setting of trauma cannot completely exclude a 
small contusion or laceration.  The lack of any subcapsular 
hematoma or adjacent fat stranding  or the soft tissue changes 
makes this unlikely however and a cyst or hamartoma is 
considered the more likely etiology. 
2. No additional traumatic injuries to the chest abdomen or 
pelvis are 
identified. 
3. 4 mm sub solid right upper lobe nodule.  No specific 
follow-up is 
recommended according to current guidelines. 
 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F restrained driver who presented to the 
emergency department on ___ after motor vehicle crash 
complaining of left should, neck, and abdominal pain. Imaging 
revealed no acute fracture or ligamentous injury the neck and 
she was given a soft cervical collar for comfort. Abdominal CT 
revealed a possible liver laceration. She was admitted to the 
floor for abdominal exams and serial hematocrit checks.

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with Tylenol.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was given a regular diet with good 
tolerability.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
-Albuterol inhaler
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
do not exceed 4 grams/24 hours  
2.  Docusate Sodium 100 mg PO BID 
as needed.  
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob/wheeze  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grade I liver laceration
Neck pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery service on ___ 
after a motor vehicle crash. You had neck and left shoulder pain 
and had a CT scan and MRI that did not show any acute injuries. 
Please continue to wear your soft neck brace for comfort. You 
had a CT scan of your abdomen that showed a laceration in your 
liver. Your blood levels were monitored and remained stable. 
Please continue to take pain medication as needed for this pain. 
You should refrain from strenuous activity or heavy lifting for 
2 weeks. 

You are now doing better, tolerating a regular diet, and pain is 
better controlled.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___